4
L0100 1 0 5.14532930107527E-2
L0201 2 1 5.15539843865076E-2
L0302 3 2 7.84557907845579E-2
L0403 4 3 1.81818181818182E-1
C0100 1 0 7.06040816326531 IC=1
C0200 2 0 3.38349206349206
C0300 3 0 1.92063492063492
C0400 4 0 1
.TRAN 40E-2 8E-2 ADMO4 1 UIC